US08609710B2
[Step 1] 1-Iodoethyl isopropyl carbonate
To a solution of 1-chloroethyl isopropyl carbonate (1.00 g) in toluene (30 mL), sodium iodide (2.10 g) and 18-crown-6 (185 mg) were added at room temperature, and the mixture was stirred at 100° C. for 5 hours. To the reaction solution, ethyl acetate was added, and the mixture was washed with water and 5% aqueous sodium thiosulfate in this order and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product of the title compound (1.51 g).

reactant | 1-chloroethyl isopropyl carbonate | 1.00 g | C(OC(C)Cl)(OC(C)C)=O | C6H11ClO3
reactant | sodium iodide | 2.10 g | [I-].[Na+]
reactant | 18-crown-6 | 185 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Iodoethyl isopropyl carbonate | 1.51 g | C(OC(C)I)(OC(C)C)=O | C6H11IO3
